US06790958B2
Preparation of 4-(2-thienyl)benzylamine.
The 4-(2-thienyl)benzonitrile (0.086 g, 0.464 mmol) was dissolved in dry tetrahydrofuran (1.6 ml) before lithium aluminum hydride (0.46 ml, 0.464 mmol, 1 M in THF) was added dropwise. The reaction was allowed to stir at room temperature overnight. TLC (5% methanol in dichloromethane) still showed starting material remaining. Another 1 eq of LAH was added. After an additional hour, the reaction was quenched by the Fieser and Fieser method using wager (17.46 μl), aqueous sodium hydroxide solution (17.46 μl, 15% soln.), and water (52.37 μl) added sequentially to the reaction. The reaction was then diluted with diethyl ether and water and extracted twice with diethyl ether before drying over sodium sulfate and concentrating in vacuo. The residue was carried on crude without any further purification.

reactant | 4-(2-thienyl)benzonitrile | 0.464 mmol, 0.086 g | S1C(=CC=C1)C1=CC=C(C#N)C=C1 | C11H7NS
reactant | lithium aluminum hydride | 0.464 mmol, 1 M, 0.46 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methanol | CO | CH4O
reactant | LAH | 1 eq | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | tetrahydrofuran | 1.6 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(2-thienyl)benzylamine | S1C(=CC=C1)C1=CC=C(CN)C=C1 | C11H11NS
